US07851635B2
1-Bromo-3-(methoxymethoxy)benzene (3.938 g, 18.14 mmol) prepared from 3-bromophenol by the method described in Shin-Jikken-Kagaku-Koza (New Experiment Chemistry Lecture) Vol. 14, p. 568 (Maruzen, 1978) was dissolved in tetrahydrofuran (8 mL), and to the solution was gradually added a 1.56 mol/L solution of n-butyl lithium in hexane (12.2 mL, 19.0 mmol) under cooling at −78° C. Subsequently, to the mixture was added THF (16 mL), and then the mixture was stirred at the same temperature for 30 minutes. The reaction mixture was gradually added to tert-butyl[2-(N-methoxy-N-methylcarbamoyl)ethyl]carbamate (this compound is prepared by condensation of N-tert-butoxycarbonyl-β-alanine and N,O-dimethylhydroxylamine hydrochloride) (2.010 g, 8.653 mmol) dissolved in THF (10 mL) at −18° C. The mixture was stirred at the same temperature for 1 hour, then to the mixture was added water and saturated aqueous ammonium chloride, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/n-hexane=1/4) to give tert-butyl {3-[3-(methoxymethoxy)phenyl]-3-oxopropyl}carbamate (1.568 g, 59%).

reactant | 1-Bromo-3-(methoxymethoxy)benzene | 18.14 mmol, 3.938 g | BrC1=CC(=CC=C1)OCOC | C8H9BrO2
reactant | 3-bromophenol | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 19.0 mmol, 12.2 mL | CCCCCC | C6H14
reactant | tert-butyl[2-(N-methoxy-N-methylcarbamoyl)ethyl]carbamate | C(C)(C)(C)OC(NCCC(N(C)OC)=O)=O | C10H20N2O4
reactant | N-tert-butoxycarbonyl-β-alanine | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | N,O-dimethylhydroxylamine hydrochloride | Cl.CNOC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 16 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl {3-[3-(methoxymethoxy)phenyl]-3-oxopropyl}carbamate | 1.568 g, 59% | COCOC=1C=C(C=CC1)C(CCNC(OC(C)(C)C)=O)=O | C16H23NO5
